US04778813
A 1000 mL four-neck flask equipped with a reflux condenser, mechanical stirrer, thermometer and a dropping funnel was charged with 149.5 g (1.0 mole) of a 98 percent, N,N,N',N'-tetramethyl-2-hydroxy-1,3-propanediamine. The flask was immersed into an ice-water bath while 197.2 g (2.0 moles) of concentrated hydrochloric acid was introduced at such a rate as to keep the temperature between 35° and 45° C. To the N,N,N',N'-tetramethyl-2-hydroxy-1,3-propanediamine dihydrochloride so obtained, 185.0 g (2.0 moles) of epichlorohydrin was added slowly, taking care that the temperature did not exceed 45° C. After the addition was completed, the temperature was raised to between 60° and 71° C. for 30 minutes. A 77.2 percent solution of the title compound was obtained.

reactant | N,N,N',N'-tetramethyl-2-hydroxy-1,3-propanediamine | CN(CC(CN(C)C)O)C | C7H18N2O
reactant | hydrochloric acid | 2.0 moles, 197.2 g | Cl | ClH
product | N,N,N',N'-tetramethyl-2-hydroxy-1,3-propanediamine dihydrochloride | Cl.Cl.CN(CC(CN(C)C)O)C | InChI=1S/C7H18N2O.2ClH/c1-8(2)5-7(10)6-9(3)4;;/h7,10H,5-6H2,1-4H3;2*1H
